US07884207B2
4-{[(3-Aminoquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol (7.50 g, 27.4 mmol) was reacted with ethoxyacetyl chloride (3.70 g, 30.1 mmol) and the resulting product was cyclized according to the method described in Part E of Example 9 to provide 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol as pale tan crystals (7.50 g, 76%) after crystallization from ethanol.

reactant | 4-{[(3-Aminoquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol | 27.4 mmol, 7.50 g | NC=1C=NC2=CC=CC=C2C1NCC1(CCOCC1)O | C15H19N3O2
reactant | ethoxyacetyl chloride | 30.1 mmol, 3.70 g | C(C)OCC(=O)Cl | C4H7ClO2
product | 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol | 7.50 g, 76% | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)O | C19H23N3O3
